US04024266
4-(9,10-dihydro-9-methyl-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-ylidene)-1-methylpiperidine
A solution of 12.0 g of 9,10-dihydro-9-methyl-4-(1-methyl-4-piperidyl)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-ol in 180 ml of isopropanol and 180 ml of 7N hydrogen chloride in isopropanol was boiled for 3 hours, and concentrated to dryness. The residue was taken up in 100 ml of water. The mixture was made alkaline with concentrated aqueous sodium hydroxide and then extracted with methylene chloride. The extracts were washed with water, dried over potassium carbonate and concentrated. The title compound obtained as an oil was converted in ethanol into the hydrogen malate (M.Pt. of hydrogen malate: 193°-194° from ethanol).

reactant | 9,10-dihydro-9-methyl-4-(1-methyl-4-piperidyl)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-ol | 12.0 g | CC1C2=C(C(C3=C(SC=C3)C1)(O)C1CCN(CC1)C)C=CC=C2 | C20H25NOS
solvent | isopropanol | 180 ml | C(C)(C)O | C3H8O
solvent | hydrogen chloride | 7N, 180 ml | Cl | ClH
product | 4-(9,10-dihydro-9-methyl-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-ylidene)-1-methylpiperidine | CC1C2=C(C(C3=C(SC=C3)C1)=C1CCN(CC1)C)C=CC=C2 | C20H23NS
